US07482362B2
(2,2-dimethyl-5-octanoyl-1,3-dioxane-4,6-dione)
N,N′-Dicyclohexylcarbodiimide (11 mmol) was added to a stirred solution of octanoic acid (10 mmol) and 4-dimethylaminopyridine (12 mmol) in dry dichloromethane (40 ml). The mixture was stirred at room temperature for 1 hour and Meldrum's acid (10 mmol) was added. The stirring was continued at room temperature overnight. The solvent was removed in vacuum and the residue redissolved in ethyl acetate and filtered. The filtrate was washed with 2 M HCl solution and dried over MgSO4. The solvent was rotary evaporated to obtain the title product as an oil in 95% yield and was used without purification in the next step.

reactant | N,N′-Dicyclohexylcarbodiimide | 11 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | octanoic acid | 10 mmol | C(CCCCCCC)(=O)O | C8H16O2
reactant | Meldrum's acid | 10 mmol | CC1(OC(=O)CC(=O)O1)C | C6H8O4
catalyst | 4-dimethylaminopyridine | 12 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2,2-dimethyl-5-octanoyl-1,3-dioxane-4,6-dione | 95% yield | CC1(OC(C(C(O1)=O)C(CCCCCCC)=O)=O)C | C14H22O5
